US08431525B2
Under an argon atmosphere, 3-benzyl-5-(4-methoxyphenyl)-2-(phenylthioacetylamino)pyrazine (c-17) (114 mg, 267 μmol) was dissolved in anhydrous dichloromethane (2 mL), and then cooled to 0° C. To this was added 1.0 M solution of boron tribromide in dichloromethane (1.35 mL, 1.35 mmol) and stirred for 3.5 h after warming to room temperature. To this was added saturated aqueous solution of sodium bicarbonate to stop the reaction and concentrated under reduced pressure with a rotary evaporator to remove dichloromethane. The suspension was filtered and the residue was dried to give 105 mg of the crude product as a red solid, which was purified by silica gel chromatography (8.2 g, n-hexane/ethyl acetate=3/2) to give 3-benzyl-5-(4-hydroxyphenyl)-2-(phenylthioacetylamino)pyrazine (h-coelenterathioamide) (c-14) as an orange solid (88.9 mg, 80.9%). Rf=0.21 (n-hexane/ethyl acetate=3/2). Mp. 195-198° C. UV (MeOH) λmax (log ε) 336.5 (4.24), 297 (4.18), 273.5 (4.26). UV (pH 7.4 PB) λmax (log ε) 336.5 (4.12), 270 (4.20). 1H NMR (400 MHz, DMSO-d6) δ 3.90 (s, 2H), 4.13 (s, 2H), 6.84-6.90 (AA′BB′, 2H), 6.99 (d, J=7.1 Hz, 2H), 7.10-7.24 (m, 3H), 7.26 (t, J=7.1 Hz, 1H), 7.36 (t, J=7.1 Hz, 2H), 7.50 (d, J=7.1 Hz, 2H), 7.93-7.99 (AA′BB′, 2H), 8.91 (s, 1H), 9.94 (s, 1H), 12.17 (s, 1H). 13C NMR (75.5 MHz, DMSO-d6) δ 39.4, 51.6, 115.9 (2C), 126.1, 126.3, 127.0, 128.3 (2C), 128.36 (2C), 126.44 (2C), 128.9 (2C), 129.0 (2C), 136.9, 137.6, 138.1, 144.6, 150.0, 152.0, 159.5, 204.5. IR (KBr, cm−1) 702, 839, 1140, 1169, 1207, 1234, 1283, 1319, 1360, 1435, 1450, 1472, 1491, 1522, 1607, 3069, 3478. HRMS (FAB+) m/z 412.1490 (M+H, C25H22N3OS requires 412.1484).

reactant | 3-benzyl-5-(4-methoxyphenyl)-2-(phenylthioacetylamino)pyrazine | 267 μmol, 114 mg | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)OC)NC(CC1=CC=CC=C1)=S | C26H23N3OS
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.35 mmol, 1.35 mL | ClCCl | CH2Cl2
product | 3-benzyl-5-(4-hydroxyphenyl)-2-(phenylthioacetylamino)pyrazine | 88.9 mg, 80.9% | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)O)NC(CC1=CC=CC=C1)=S | C25H21N3OS
